US07268250B2
Production of 3-[(acetyl) (methoxycarbonyl)methyl]cyclopentanone
Under an atmosphere of argon, 12.6 mg (0.02 mmol, S/C=50) of Ru[(S,S)-Tsdpen] (hexamethylbenzene), 84 μL (1.0 mmol) of 2-cyclopentenone, 108 μL (1.0 mmol) of methyl acetoacetate, and 1 mL of 2-methyl-2-propanol were placed in a 20 mL Schlenk tube and stirred at 40° C. for 24 hours. This solution was purified by flash column chromatography (hexane/acetone=90/10, SiO2) to give 196 mg (99% yield) of the title compound. The percentage diastereomeric excess and the percentage enantiomeric excess were measured by 1H NMR and HPLC (CHIRALPAK AS manufactured by Daicel Chemical Industries, Ltd., hexane:2-propanol=80:20, flow rate 1.0 mL/min, detection at 210 nm), it was found that the product was a 1:1 diastereomeric mixture and each diastereomer was present in 70% ee.

reactant | 2-cyclopentenone | 1.0 mmol, 84 μL | C1(C=CCC1)=O | C5H6O
reactant | methyl acetoacetate | 1.0 mmol, 108 μL | C(CC(=O)C)(=O)OC | C5H8O3
solvent | 2-methyl-2-propanol | 1 mL | CC(C)(C)O | C4H10O
product | 3-[(acetyl) (methoxycarbonyl)methyl]cyclopentanone | 196 mg, 99% yield | C(C)(=O)C(C1CC(CC1)=O)C(=O)OC | C10H14O4
